US07855297B2
By the reaction and treatment in the same manner as in Example 12 using 7-fluoro-1,2,3,4-tetrahydronaphthalene-1-carboxylic acid (0.41 g) and [(4-dimethylaminophenyl)methyl](4-isopropylphenyl)amine (0.57 g) as starting materials, N-[(4-dimethylaminophenyl)methyl]-7-fluoro-N-(4-isopropylphenyl)-1,2,3,4-tetrahydronaphthalene-1-carboxamide (0.85 g) was obtained. This compound was dissolved in ethyl acetate, and 4 mol/L-HCl/dioxane was added. The precipitated solid was collected by filtration to give N-[(4-dimethylaminophenyl)methyl]-7-fluoro-N-(4-isopropylphenyl)-1,2,3,4-tetrahydronaphthalene-1-carboxamide hydrochloride (0.85 g). melting point: 165.6° C.

reactant | 7-fluoro-1,2,3,4-tetrahydronaphthalene-1-carboxylic acid | 0.41 g | FC1=CC=C2CCCC(C2=C1)C(=O)O | C11H11FO2
reactant | [(4-dimethylaminophenyl)methyl](4-isopropylphenyl)amine | 0.57 g | CN(C1=CC=C(C=C1)CNC1=CC=C(C=C1)C(C)C)C | C18H24N2
product | N-[(4-dimethylaminophenyl)methyl]-7-fluoro-N-(4-isopropylphenyl)-1,2,3,4-tetrahydronaphthalene-1-carboxamide | 0.85 g | CN(C1=CC=C(C=C1)CN(C(=O)C1CCCC2=CC=C(C=C12)F)C1=CC=C(C=C1)C(C)C)C | C29H33FN2O
